US07244841B2
5-(4-Dodecyloxy-phenyl)-10,15,20-tris-(4-hydroxy-phenyl)-porphyrin
5,10,15,20-tetrakis-(4-Hydroxy-phenyl)-porphyrin (200 mg, 0.294 mmol) is dissolved and potassium carbonate (487 mg, 3.53 mmol, 12 eqv.) in suspended under argon in absolute DMF (50 mL) and the mixture is heated to 55° C. A solution of dodecyl bromide (49.4 μl, 0.206 mmol, 0.7 eqv.) in absolute DMF (10 mL) is added dropwise during 30 min. The mixture is stirred at 55° C. for 2 h. The solvent is removed in vacuo at 50° C., water (80 mL) is added and the mixture extracted with ethyl acetate (3×40 mL). The combined organic fractions are dried (Na2SO4) and the solvent evaporated. The product is isolated by chromatography on a column (300 g) of silica. Tetra-alkylated and tri-alkylated compounds are eluted with toluene:ethyl acetate (30:1 by vol.), di-substituted compound (trans-isomer) with toluene:ethyl acetate (15:1 by vol.), di-substituted compound (cis-isomer) with toluene:ethyl acetate (10:1 by vol.) and the desired product (mono-alkylated compound) with toluene:ethyl acetate (5:1 by vol). Solvent is removed in vacuo and the residue dried at high vacuum to give product as a violet solid.

reactant | 5,10,15,20-tetrakis-(4-Hydroxy-phenyl)-porphyrin | 0.294 mmol, 200 mg | OC1=CC=C(C=C1)C=1C2=CC=C(N2)C(=C2C=CC(C(=C3C=CC(=C(C=4C=CC1N4)C4=CC=C(C=C4)O)N3)C3=CC=C(C=C3)O)=N2)C2=CC=C(C=C2)O | C44H30N4O4
reactant | potassium carbonate | 3.53 mmol, 487 mg, 12 eqv. | C([O-])([O-])=O.[K+].[K+]
reactant | dodecyl bromide | 0.206 mmol, 49.4 μl, 0.7 eqv. | C(CCCCCCCCCCC)Br | C12H25Br
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 5-(4-Dodecyloxy-phenyl)-10,15,20-tris-(4-hydroxy-phenyl)-porphyrin | C(CCCCCCCCCCC)OC1=CC=C(C=C1)C=1C2=CC=C(N2)C(=C2C=CC(C(=C3C=CC(=C(C=4C=CC1N4)C4=CC=C(C=C4)O)N3)C3=CC=C(C=C3)O)=N2)C2=CC=C(C=C2)O | C56H54N4O4
